US04804662
N-[2-(Diethylamino)ethyl]-4-fluorobenzamide
Add 24.4 g (0.154 mol) of p-fluorobenzoyl chloride in 100 mL of tetrahydrofuran dropwise to 17.88 g (0.154 mol) of N,N-diethylethylenediamine in 150 mL of tetrahydrofuran at 0° C. Stir at 0° C. for about 2 hr then at room temperature for about 17 hr. Concentrate the resultant solution and treat the residue with 1N NaOH until about pH=10. Extract the resultant solution with methylene chloride (2×100 mL). Dry the extract with Na2SO4 amd evaporate the solvent to give the title compound.

reactant | p-fluorobenzoyl chloride | 0.154 mol, 24.4 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | N,N-diethylethylenediamine | 0.154 mol, 17.88 g | C(C)N(CCN)CC | C6H16N2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | N-[2-(Diethylamino)ethyl]-4-fluorobenzamide | C(C)N(CCNC(C1=CC=C(C=C1)F)=O)CC | C13H19FN2O
